US05006543
A solution of 4-(trifluoromethoxy)benzyl bromide (5.3 g) and triphenylphosphine (5.42 g) in acetonitrile (100 ml) was heated under reflux for 12h. The acetonitrile was evaporated under reduced pressure, and ethyl acetate (50 ml) was added to the residue. The solid material so obtained was filtered off, washed with ethyl acetate (100 ml) and dried, to give (4-trifluoromethoxybenzyl)triphenyl phosphonium bromide, N.M.R. in d6 -dimethylsulphoxide: δ5.2 (2H,d), 7.1 (2H,2d), 7.25 (2H,d), 7.8 (9H,m).

reactant | 4-(trifluoromethoxy)benzyl bromide | 5.3 g | FC(OC1=CC=C(CBr)C=C1)(F)F | C8H6BrF3O
reactant | triphenylphosphine | 5.42 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | (4-trifluoromethoxybenzyl)triphenyl phosphonium bromide | [Br-].FC(OC1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)(F)F | InChI=1S/C26H21F3OP.BrH/c27-26(28,29)30-22-18-16-21(17-19-22)20-31(23-10-4-1-5-11-23,24-12-6-2-7-13-24)25-14-8-3-9-15-25;/h1-19H,20H2;1H/q+1;/p-1
